US04351767
Preparation of 3α,6α-ditosyloxy-5β-cholest-24-ene
3.5 g of 3α,6α-dihydroxy-5β-cholest-24-ene and 10.2 g of ρ-toluenesulfonyl chloride were dissolved in 90 ml of dry pyridine and then kept in a refrigerator for 48 hours. The mixture was poured into 300 ml of ice-water and the pH adjusted to 3 by adding concentrated HCl. After stirring for 30 minutes, the precipitate was removed by filtration, washed 4 times with 100 ml portions of water and dissolved in 300 ml of chloroform. The chloroform solution was washed with 30 ml of 5% sodium bicarbonate solution, four times with 50 ml of water solution, and dried. The solvent was evaporated and the residue dried. The yield was 5.1 g of a white solid (83%) identified from ir and nmr data as 3α,6α-ditosyloxy-5β-cholest-24-ene.

reactant | 3α,6α-dihydroxy-5β-cholest-24-ene | 3.5 g | O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C27H46O2
reactant | ρ-toluenesulfonyl chloride | 10.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 3α,6α-ditosyloxy-5β-cholest-24-ene | S(=O)(=O)(C1=CC=C(C)C=C1)O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OS(=O)(=O)C1=CC=C(C)C=C1 | C41H58O6S2
